US08557805B2
Ethyl{2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate
To a solution of 5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carbothioamide (1.5 g) in tetrahydrofuran (10 mL) and toluene (15 mL) were added ethyl 2-butynoate (1.02 g) and tri-n-butylphosphine (0.73 g), and the mixture was stirred at 90° C. for 1 hr. The reaction mixture was cooled, and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) to give the title compound (1.25 g, yield 66%) as a yellow amorphous solid.

reactant | 5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carbothioamide | 1.5 g | COCC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(N)=S | C21H23N3O4S
reactant | ethyl 2-butynoate | 1.02 g | C(C#CC)(=O)OCC | C6H8O2
reactant | tri-n-butylphosphine | 0.73 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | Ethyl{2-[5-{[6-(methoxymethyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 1.25 g, yield 66% | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)COC)OC1CCOCC1)=O | C27H31N3O6S
